US08039450B2
A mixture of 4-[4-bromo-3-(2-tetrahydropyranyloxymethyl)phenoxy]-3-formylbenzonitrile (28.0 g, 67.3 mmol), bis(pinacolato)diboron (18.8 g, 74.0 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (1.37 g, 2.5 mol %), and potassium acetate (19.8 g, 202 mmol) in 1,4-dioxane (270 mL) was stirred under nitrogen atmosphere at 80° C. overnight. The mixture was filtered through a Celite pad, and the solvent was removed under reduced pressure. The residue was dissolved in tetrahydrofuran (250 mL) and was added 6 M HCl (30 mL), and the mixture was stirred at room temperature for 2 h. The mixture was poured into ethyl acetate/water. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by silica gel column (5:5 to 3:7 hexane/ethyl acetate) followed by recrystallization from ethyl acetate/hexane to give 5-(4-cyano-2-formylphenoxy)-1,3-dihydro-1-hydroxy-2,1-benzoxaborole (6.61 g, 35%).

reactant | 4-[4-bromo-3-(2-tetrahydropyranyloxymethyl)phenoxy]-3-formylbenzonitrile | 67.3 mmol, 28.0 g | BrC1=C(C=C(OC2=C(C=C(C#N)C=C2)C=O)C=C1)COC1OCCCC1 | C20H18BrNO4
reactant | bis(pinacolato)diboron | 74.0 mmol, 18.8 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 202 mmol, 19.8 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 270 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 1.37 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4-cyano-2-formylphenoxy)-1,3-dihydro-1-hydroxy-2,1-benzoxaborole | 6.61 g, 35% | C(#N)C1=CC(=C(OC=2C=CC3=C(COB3O)C2)C=C1)C=O | C15H10BNO4
